US05656645
Preparation of 2-hydroxy-6-ethylpyridine-3-carbonitrile
To a suspension of 1-hydroxy-6-methylpyridine-3-carbonitrile (12.24 g, 0.91 mole) in tetrahydrofuran (100 mL) cooled to -78° C. under a nitrogen atmosphere was added dropwise lithium diisopropylamide (100 mL of a 2.0M solution in heptane/tetrahydrofuran/ethylbenzene, 0.20 mole). After the addition was complete, the solution was stirred in an ice bath for 2 hours. Iodomethane (6.25 mL, 0.10 mmol) was added, and the reaction mixture was stirred for an additional 2.5 hours at 0° C. and 30 minutes at room temperature. Water (300 mL) and 1.0N NaOH 50 mL) were added. The aqueous solution was washed with ethyl acetate (150 mL), acidified with 1.0N sodium bisulfate to pH 4, and extracted with 10% methanol/ethyl acetate twice (500 mL total). Sodium chloride was added to the aqueous layer, and the solution was extracted with 10% isopropanol/ethyl acetate twice (500 mL total). The combined organic layers were washed with brine, dried over magnesium sulfate and the solvent removed under reduced pressure. The residue was recrystallized from methanol/isopropanol to give the title compound (7.56 g) as orange needles in 56% yield.

reactant | 1-hydroxy-6-methylpyridine-3-carbonitrile | 0.91 mole, 12.24 g | ON1CC(=CC=C1C)C#N | C7H8N2O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | Iodomethane | 0.10 mmol, 6.25 mL | IC | CH3I
reactant | NaOH | 1.0N, 50 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | heptane tetrahydrofuran ethylbenzene | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
solvent | Water | 300 mL | O | H2O
product | 2-hydroxy-6-ethylpyridine-3-carbonitrile | 7.56 g, 56% yield | OC1=NC(=CC=C1C#N)CC | C8H8N2O
